US04413135
N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
To a stirred solution of 1-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]methanimidamide maleate (1:2) (2.23 g) and N-(2-chloroethyl)-N'-methyl-2-nitro-1,1-ethenediamine (1.08 g) in water (20 ml) at 45° under an atmosphere of nitrogen was added a solution of potassium hydroxide (1.68 g) in water (3 ml). After 40 hr. at room temperature the solution was extracted with ether (2×50 ml) and the aqueous phase evaporated in vacuo. Tetrahydrofuran (70 ml), decolourising charcoal and an excess of anhydrous sodium carbonate were added to the residue and the mixture refluxed for 30 mins. After 3 hours the mixture was filtered and the filtrate evaporated in vacuo to give a semi-solid which was dissolved in a mixture of methanol and acetone and chromatographed (silica;methanol:acetone 1:1). The appropriate eluate was evaporated in vacuo to give the title compound as an oil (0.37 g), a portion of which was crystallised from 4-methylpentan-2-one, m.p. 68°-70° which was not depressed on admixture with a sample prepared according to the method of Example 15 in British Patent No. 1,565,966.

reactant | 1-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]methanimidamide maleate | 2.23 g | C(\C=C/C(=O)O)(=O)O.CN(C)CC1=CC=C(O1)CSC(N)=N
reactant | N-(2-chloroethyl)-N'-methyl-2-nitro-1,1-ethenediamine | 1.08 g | ClCCNC(=C[N+](=O)[O-])NC | C5H10ClN3O2
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.37 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
